US04428958
Benzyl 3-(2-ethylsulphinylethylidene)-7-oxo-4-oxa-1-azabicyclo[3,2,0]heptane-2-carboxylate
Benzyl 3-(2-ethylthioethylidene)-7-oxo-4-oxa-1-azabicyclo[3,2,0]heptane-2-carboxylate (704 mg) was dissolved in methylene chloride (40 ml) and treated with m-chloroperbenzoic acid (370 mg). The solution was stirred at 0° C. for 1.0 hour and washed with a dilute bicarbonate solution (×2). The extract was dried over MgSO4 and evaporated. Chromatography over silica gel yielded the title product as a mixture of R and S sulphoxides (295 mg);

reactant | Benzyl 3-(2-ethylthioethylidene)-7-oxo-4-oxa-1-azabicyclo[3,2,0]heptane-2-carboxylate | 704 mg | C(C)SCC=C1C(N2C(CC2O1)=O)C(=O)OCC1=CC=CC=C1 | C17H19NO4S
reactant | m-chloroperbenzoic acid | 370 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | Benzyl 3-(2-ethylsulphinylethylidene)-7-oxo-4-oxa-1-azabicyclo[3,2,0]heptane-2-carboxylate | C(C)S(=O)CC=C1C(N2C(CC2O1)=O)C(=O)OCC1=CC=CC=C1 | C17H19NO5S
